US06566394B1
Synthesis of N-(2-acetoxybenzoyl)-2,5-dimethoxyaniline
2,5-Dimethoxyaniline (10.0 g, 65.3 mmol) was dissolved in pyridine (100 ml), and a solution of O-acetylsalicyloyl chloride (13.0 g, 65.3 mmol) in ethyl acetate (50 ml) was added thereto over 15 minutes under ice cooling. Thereafter, the mixture was stirred for 15 minutes at the same temperature as above. After adding water (10 ml) to the reaction mixture to stop the reaction, ethyl acetate (500 ml) was added and the reaction mixture was washed with 3 N hydrochloric acid (500 ml), water (500 ml), 2% sodium hydrogen carbonate solution (500 ml), and water (500 ml) in order. After drying it over Glauber's salt, the ethyl acetate layer was concentrated under reduced pressure and dried under vacuum to obtain the titled compound (19.8 g) as pale yellow syrup. The compound was used in the subsequent step without purification. The titled compound purified by preparative thin layer chromatography had the following physical properties.

reactant | 2,5-Dimethoxyaniline | 65.3 mmol, 10.0 g | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | O-acetylsalicyloyl chloride | 65.3 mmol, 13.0 g | CC(=O)OC1=CC=CC=C1C(=O)Cl | C9H7ClO3
reactant | water | 10 ml | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-acetoxybenzoyl)-2,5-dimethoxyaniline | 19.8 g | C(C)(=O)OC1=C(C(=O)NC2=C(C=CC(=C2)OC)OC)C=CC=C1 | C17H17NO5
